US04010210
By a procedure similar to that described in Example 14, hydrogen sulphide is passed into 20 g (0.1 mole) of molten 1-bromonaphthalene at a temperature of 220°-230° C for seven hours to obtain by distillation in vacuum (1 mm Hg) 7.5 g (52 percent by weight) of di(1-naphthyl)sulphide. The conversion is 82.5 percent by weight.

reactant | hydrogen sulphide | S | H2S
reactant | 1-bromonaphthalene | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
product | di(1-naphthyl)sulphide | 7.5 g | C1(=CC=CC2=CC=CC=C12)SC1=CC=CC2=CC=CC=C12 | C20H14S
